US05212187
N-[4-[N-[3-phenyl-3-(2-pyridyl)propyl]-N-methylamino]butyl]-N'-[3-[3-(piperidinomethyl)phenoxy]propyl]urea
Preparation is effected analogously to Example 63, using 0.7 g (2.3 mmol) of N-methyl-N-[3-phenyl-3-(2-pyridyl)propyl]-1,4-butanediamine, an equimolar amount of 1,1'-carbonyldiimidazole and 0.7 g (2.8 mmol) of 3-[3-(piperidinomethyl)phenoxy]propaneamine. Working up by chromatography analogously to Example 63 yields the purified title compound in the form of an oil; MS (EI-80 eV): m/z (rel. int.[%])=571 ([M]+, 4), 84 (22), 169 (100).

reactant | N-methyl-N-[3-phenyl-3-(2-pyridyl)propyl]-1,4-butanediamine | 2.3 mmol, 0.7 g | CN(CCCCN)CCC(C1=NC=CC=C1)C1=CC=CC=C1 | C19H27N3
reactant | 1,1'-carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 3-[3-(piperidinomethyl)phenoxy]propaneamine | 2.8 mmol, 0.7 g | N1(CCCCC1)CC=1C=C(OCCCN)C=CC1 | C15H24N2O
product | N-[4-[N-[3-phenyl-3-(2-pyridyl)propyl]-N-methylamino]butyl]-N'-[3-[3-(piperidinomethyl)phenoxy]propyl]urea | C1(=CC=CC=C1)C(CCN(C)CCCCNC(=O)NCCCOC1=CC(=CC=C1)CN1CCCCC1)C1=NC=CC=C1 | C35H49N5O2
